US04070464
The solid, the 2-chloroacetyl derivative of 2-aminomethyl-4-(1,1-dimethylethyl)-6-trifluoromethylphenol is dissolved in a mixture of ethanol (75 ml.) and 12 N hydrochloric acid (25 ml.) The mixture is refluxed for 5 hours, cooled to 20° C. and diluted with 12 N hydrochloric acid (150 ml.). Upon cooling to -20° C., the product separates (14 g.). It is crystallized from ethanol-12 N hydrochloric acid (1:4) to obtain pure 2-aminomethyl-4-tertbutyl-6-trifluoromethylphenol hydrochloride, m.p. 202°-204° C. This material is added to 500 ml. of warm water and treated with excess ammonium hydroxide. The precipitate is collected, washed with water, and air dried to give the free base, m.p. about 148° C.

reactant | 2-aminomethyl-4-(1,1-dimethylethyl)-6-trifluoromethylphenol | NCC1=C(C(=CC(=C1)C(C)(C)C)C(F)(F)F)O | C12H16F3NO
reactant | hydrochloric acid | 12 N, 25 ml | Cl | ClH
reactant | hydrochloric acid | 12 N, 150 ml | Cl | ClH
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 2-aminomethyl-4-tertbutyl-6-trifluoromethylphenol hydrochloride | Cl.NCC1=C(C(=CC(=C1)C(C)(C)C)C(F)(F)F)O | InChI=1S/C12H16F3NO.ClH/c1-11(2,3)8-4-7(6-16)10(17)9(5-8)12(13,14)15;/h4-5,17H,6,16H2,1-3H3;1H
